US06506901B2
Step D: 4-Methoxy-2-oxindole
A mixture of 2-methoxy-6-nitrophenylacetic acid (31 g, 150 mmol), and 3.0 g of 10% palladium on carbon in 200 mL of glacial acetic acid was stirred under an atmosphere of H2 gas until uptake ceased. The catalyst was filtered and the solvent evaporated in vacuo. The crude product was crystallized from methanol to give 9.0 g of the title compound.

reactant | 2-methoxy-6-nitrophenylacetic acid | 150 mmol, 31 g | COC1=C(C(=CC=C1)[N+](=O)[O-])CC(=O)O | C9H9NO5
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 4-Methoxy-2-oxindole | 9.0 g | COC1=C2CC(NC2=CC=C1)=O | C9H9NO2
